US08212041B2
A 250-mL, 3-neck, rb flask equipped with a magnetic stirbar, a reflux condenser and a powder funnel was charged with potassium hydroxide (6.0 g, 90 mmol) then 2-hydroxyacetic acid (5.0 g, 65 mmol) with stirring. The solid reactants gradually reacted and liquified as significant heat was generated. Upon dissolution of all the reagents, flask containing the hot syrupy liquid was immersed in a 170° C. oil bath, then a solution of 4-chloro-7-methoxyquinoline (5.0 g, 26 mmol) in anhydrous DMSO (20 mL, 4 vol wrt quinoline) was added dropwise over 20-30 min via addition funnel. The resulting brown solution was maintained in the oil bath with stirring. After 2.5 h, the flask was removed from the oil bath, then quenched by the addition of water (100 mL, 5 vol wrt DMSO). The resulting brown solution was immersed in an ice bath, and the mixture was neutralized by the dropwise addition of 6 N HCl (15 mL, 1 equiv to KOH), which resulted in the formation of a thick yellow ppt and brought the mixture to pH 3. The mixture was filtered and washed with water and ACN. The solid products were dried under vacuum to yield 2-(7-methoxyquinolin-4-yloxy)acetic acid (2.16 g, 36% yield) as a yellow solid. (ESI, pos. ion) m/z: 234.1 (M+H).

reactant | potassium hydroxide | 90 mmol, 6.0 g | [OH-].[K+]
reactant | 2-hydroxyacetic acid | 65 mmol, 5.0 g | OCC(=O)O | C2H4O3
reactant | 4-chloro-7-methoxyquinoline | 26 mmol, 5.0 g | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
reactant | HCl | 6 N, 15 mL, 1 equiv | Cl | ClH
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 2-(7-methoxyquinolin-4-yloxy)acetic acid | 2.16 g, 36% yield | COC1=CC=C2C(=CC=NC2=C1)OCC(=O)O | C12H11NO4
